US09382237B2
Synthesis of 3-((1H-indazol-5-yl)amino)-5-((4-hydroxybenzyl)amino)-1H-pyrazole-4-carboxamide D76
Dissolved 0.500 g 2-cyano-3,3-bis(methylthio)acrylamide in 15 mL EtOH and added 5-Aminoindazole (1.0 eq.). Stirred reaction at 75° C. until starting amide was absent by HPLC. Once complete (18 hrs), reaction was brought to room temperature and filtered to obtain a light yellow powder as product. Product was allowed to dry under vacuum for 1 hr. Product was then suspended in 10 mL EtOH and hydrazine hydrate (1 eq.) was added dropwise. Reaction was heated at 75° C. until intermediate was absent (HPLC). Once intermediate was absent (18 hrs), reaction was brought to room temperature and filtered to obtain a yellow powder as product. Product was allowed to dry under vacuum for 1 hr.

reactant | 2-cyano-3,3-bis(methylthio)acrylamide | 0.500 g | C(#N)C(C(=O)N)=C(SC)SC | C6H8N2OS2
reactant | 5-Aminoindazole | 1.0 eq. | NC=1C=C2C=NNC2=CC1 | C7H7N3
reactant | hydrazine hydrate | 1 eq. | O.NN
solvent | EtOH | 15 mL | CCO | C2H6O
product | 3-((1H-indazol-5-yl)amino)-5-((4-hydroxybenzyl)amino)-1H-pyrazole-4-carboxamide | N1N=CC2=CC(=CC=C12)NC1=NNC(=C1C(=O)N)NCC1=CC=C(C=C1)O | C18H17N7O2
